US05164112
(1) Preparation of (S) 2-hydroxy-4-nonyn-3-one
A solution of 22 g of hexyne in 300 ml of THF was placed in a flask, and cooled to -50° C. Then, 170 ml of a 1.55M n-hexane solution of n-butyllithium was dropped thereto. The resulting mixture was stirred at -50° C. for 15 minutes, and then a solution of 50 g of (S) 1-ethoxyethyl-N,N-dimethyllactamide as obtained in Example 1 (2) in 150 ml of THF was dropped thereto. The resulting mixture was stirred at the same temperature as above for two hours, and then an aqueous solution of 28.3 g of ammonium chloride in 200 ml of water was dropped to terminate the reaction.

reactant | hexyne | 22 g | C#CCCCC | C6H10
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-ethoxyethyl-N,N-dimethyllactamide | C(C)OC(C)C(C(=O)N(C)C)(O)C | C9H19NO3
reactant | ammonium chloride | 28.3 g | [Cl-].[NH4+]
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | water | 200 ml | O | H2O
solvent | n-hexane | 1.55M | CCCCCC | C6H14
product | 2-hydroxy-4-nonyn-3-one | OC(C)C(C#CCCCC)=O | C9H14O2
